US07026478B2
A solution of EtMgBr (3 M in Et2O, 0.9 mL) is added to a solution of Et2Zn (3 M in toluene, 1 mL) at −78° C. After stirring for 15 min, the resulting cold solution of the zincate is added dropwise to a solution of methyl 4-chlorobenzoate (354 mg, 2.10 mmol) and Fe(acac)3 (36 mg, 0.1 mmol) in THF (6 mL) and NMP (0.5 mL) at 0° C. causing a spontaneous color change from yellow to brown-black. Standard extractive work up followed by flash chromatography affords 4-ethylbenzoic acid methyl ester (93%) the analytical and spectroscopic data of which are identical to those of a commercial sample.

reactant | EtMgBr | 3 M, 0.9 mL | CC[Mg+].[Br-]
reactant | Et2Zn | 3 M, 1 mL | [Zn](CC)CC
reactant | methyl 4-chlorobenzoate | 2.10 mmol, 354 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
catalyst | zincate | [O-]S(=O)(=O)[O-].[Zn+2]
product | 4-ethylbenzoic acid methyl ester | 93% | COC(C1=CC=C(C=C1)CC)=O | C10H12O2
